US04734416
(a)-1 3.0 Grams of 5-(3-chloropropoxy)-3,4-dihydrocarbostyril, 10 g of piperazine are mixed with 20 ml of hexamethylphosphoryl triamide and heated at 80°-90° C. for 5 hours. The reaction mixture is distilled under a reduced pressure to remove hexamethylphosphoryl triamide and unreacted piperazine. To the residue thus obtained are added 30 ml of 5%-NaHCO3 aqueous solution, followed by extraction with chloroform. The chloroform layer is washed with water and chloroform is removed by distillation. The residue thus obtained is purified by silica-gel chromatography to obtain 1.8 g of 5-(3-piperazinylpropoxy)-3,4-dihydrocarbostyril having a melting point of 192°-195° C.

reactant | 5-(3-chloropropoxy)-3,4-dihydrocarbostyril | ClCCCOC1=C2CCC(NC2=CC=C1)=O | C12H14ClNO2
reactant | piperazine | 10 g | N1CCNCC1 | C4H10N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 5-(3-piperazinylpropoxy)-3,4-dihydrocarbostyril | 1.8 g | N1(CCNCC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C16H23N3O2
